US06720320B2
(S)-7-(2-hydroxy-3-(4-(naphthalen-2-yl)piperidino)propyloxy) -benzo(b)furan-2-carboxylic acid
To a solution of ethyl (S)-7-(2-hydroxy-3-(4-(naphthalen-2-yl)piperidino)propyloxy)benzo(b)furan-2-carboxylate (5.2 g) in methanol (50 ml) was added 10% saturated aqueous sodium hydroxide solution (50 ml) and the mixture was refluxed under heating for 1 hr. The reaction mixture was made acidic (pH 1) with conc. hydrochloric acid and extracted with chloroform. The organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the title compound (4.0 g) as a brown oil.

reactant | ethyl (S)-7-(2-hydroxy-3-(4-(naphthalen-2-yl)piperidino)propyloxy)benzo(b)furan-2-carboxylate | 5.2 g | O[C@H](COC1=CC=CC2=C1OC(=C2)C(=O)OCC)CN2CCC(CC2)C2=CC1=CC=CC=C1C=C2 | C29H31NO5
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | (S)-7-(2-hydroxy-3-(4-(naphthalen-2-yl)piperidino)propyloxy) -benzo(b)furan-2-carboxylic acid | 4.0 g | O[C@H](COC1=CC=CC2=C1OC(=C2)C(=O)O)CN2CCC(CC2)C2=CC1=CC=CC=C1C=C2 | C27H27NO5
